US04105652
Z-Tyr-Gly-Gly-Phe-Met-NHNH2 (II)
Compound I, Z-Tyr-Gly-Gly-Phe-Met-OBzl (0.85 g, 1.07 mmol) was dissolved in DMF (10 ml, purged with Argon for 15 min) and treated with 0.34 ml of H2NNH2 for 72 hr. at 25° C. The solvent was removed under reduced pressure to yield a crystalline residue which was triturated with H2O to form a crystalline product, yield 0.65g (84.2%). Recrystallized from DMF and ethanol to give colorless needles; mp 209°-213° C.; [α]D25 -27.6° (c 1, DMF). Anal. Calcd for C35H43N7O8S1 (721.84): C, 58.24; H, 6.00; N, 13.58; S, 4.44. Found: C, 57.50; H, 6.04; N, 13.75; S, 4.67.

reactant | Z-Tyr-Gly-Gly-Phe-Met-OBzl | 1.07 mmol, 0.85 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C42H47N5O9S
reactant | H2NNH2 | 0.34 ml | NN | H4N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Z-Tyr-Gly-Gly-Phe-Met-NHNH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C35H43N7O8S
